US07504401B2
A 1 L flask was charged with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole (17.44 g, 43.67 mmol) and 1-Bromo-3-iodo-5-(4-methoxy-benzyloxy)-benzene (18.30 g, 43.67 mmol) in ethanol (180 mL) and toluene (180 mL) under argon. Tetrakis-triphenylphosphin-palladium (1.51 g, 1.31 mmol) was added. Then a solution of sodium carbonate (9.26 g, 87.34 mmol) in water (92.6 mL) was added and the mixture heated to 90° C. and stirred for 14 h. After cooling down to room temperature AcOEt (300 mL) and brine (200 mL) were added under stirring. The mixture was filtered through a pad of Hyflo. After separation of the layers the aqueous one was extracted with AcOEt (2×300 mL). The combined organic layers were washed with water and brine (150 mL), dried over Na2SO4, filtered and evaporated to dryness. After flash chromatography on silica gel (1 kg, AcOEt/heptane 1:19) 4-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole (22.5 g, 91%) was obtained as a colorless oil.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole | 43.67 mmol, 17.44 g | CC1(OB(OC1(C)C)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C | C23H38BNO2Si
reactant | 1-Bromo-3-iodo-5-(4-methoxy-benzyloxy)-benzene | 43.67 mmol, 18.30 g | BrC1=CC(=CC(=C1)OCC1=CC=C(C=C1)OC)I | C14H12BrIO2
reactant | sodium carbonate | 87.34 mmol, 9.26 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | AcOEt | 300 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 180 mL | C(C)O | C2H6O
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 92.6 mL | O | H2O
solvent | brine | 200 mL | [Cl-].[Na+].O
product | 4-[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole | 22.5 g, 91% | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C | C31H38BrNO2Si
